US07157488B2
6-Trifluoromethyl-1H-indole
Carefully add NaH (10.83 g, 60% in oil, 270.8 mmol, 4 eq.) to EtOH (200 mL). When cool, add a solution of 5-trifluoromethyl-2-trimethylsilanylethynylphenylamine (22.3 g, 67.7 mmol) in EtOH (400 mL) with vigorous stirring. After 2 hours, heat to reflux. After 4 hours, evaporate in vacuo to remove the EtOH and dilute the residue obtained with water and extract with Et2O. Combine the organic layers and wash with brine, dry over MgSO4, filter, and evaporate to give a dark oil. Absorbed the oil onto silica gel and load onto short column of silica gel. Elute with 20% EtOAc in hexanes. Pool fractions containing the product and remove the solvent leaving a dark brown oil. Further purification of the oil by HPLC (silica column) using a gradient 1% Et2O in hexanes to 15% Et2O in hexanes. Pool fractions containing the product and remove the solvent to give the title compound as an orange solid: 1H NMR (300 MHz, d6-DMSO-d6): 6.58 (m, 1H), 7.28 (m, 1H), 7.61 (t, 1H), 7.74 (m, 2H), 11.51 (bs, 1H); MS(EI+): m/z 185 (M+).

reactant | NaH | 270.8 mmol, 10.83 g, 4 eq. | [H-].[Na+]
reactant | 5-trifluoromethyl-2-trimethylsilanylethynylphenylamine | 67.7 mmol, 22.3 g | FC(C=1C=CC=C(C1)NC#C[Si](C)(C)C)(F)F | C12H14F3NSi
solvent | EtOH | 400 mL | CCO | C2H6O
solvent | EtOH | 200 mL | CCO | C2H6O
product | 6-Trifluoromethyl-1H-indole | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
